US07291631B2
To a solution of 3-bromo-pyridine-2-carbaldehyde (1.2 g, 6.45 mmol) dissolved in ethylene glycol dimethyl ether (25 mL), THF(10 mL) and saturated solution of Na2CO3 (9 mL) was added 3,5 difluorophenyl boronic acid (1.12 g, 7.10 mmol). Purge the mixture with Ar gas (10 min). To this mixture was added Pd(PPh3)4 (373 mg, 0.33 mmol) and stir under a positive pressure of Ar at 90° C. for 16 hours. The reaction mixture was quenched with a solution of saturated NaHCO3 (50 mL). Extract with CH2Cl2 (2×50 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo to afford a light yellow oil. Purification via column chromatography on silica gel (CH2Cl2:MeOH: 80:20, v/v/v) afforded 3-(3,5-difluoro-phenyl)-pyridine-2-carbaldehyde as a white solid (0.86 g, 61%). 1H NMR (CDCl3) δ 6.59 (m, 1H), 6.92 (m, 2H), 7.60 (m, 1H), 7.76 (d, 1H, J=7.5 Hz), 8.88 (d, 1H, J=3.5 Hz), 10.11 (s, 1H).

reactant | 3-bromo-pyridine-2-carbaldehyde | 6.45 mmol, 1.2 g | BrC=1C(=NC=CC1)C=O | C6H4BrNO
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | Na2CO3 | 9 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3,5 difluorophenyl boronic acid | 7.10 mmol, 1.12 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
solvent | ethylene glycol dimethyl ether | 25 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.33 mmol, 373 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3,5-difluoro-phenyl)-pyridine-2-carbaldehyde | 0.86 g, 61% | FC=1C=C(C=C(C1)F)C=1C(=NC=CC1)C=O | C12H7F2NO
